US09079853B2
3-(3,4-dimethoxybenzyl)-5-methyl-2-oxo-1-propylindolin-3-yl benzoate
This compound was made in an analogous fashion to 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate using 5-methyl-2-oxo-1-propylindolin-3-yl benzoate and 4-(bromomethyl)-1,2-dimethoxybenzene. 1H-NMR δ 8.06 (d, 2H), 7.57 (t, 1H), 7.43 (t, 2H), 7.07 (d, 1H), 6.90 (s, 1H), 6.68 (d, 1H) 6.62 (m, 2H), 6.39 (s, 1H), 3.83 (s, 3H), 3.66 (s, 3H), 3.56 (m, 1H) 3.47 (m, 2H), 3.25 (d, 1H), 2.27 (s, 3H), 1.52 (m, 2H), 0.84 (t, 3H). Calculated mass for C28H29NO5, 459.53. Observed 482.2 (M+Na).

reactant | 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CC)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C28H29NO6
reactant | 5-methyl-2-oxo-1-propylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CCC)=O | C19H19NO3
reactant | 4-(bromomethyl)-1,2-dimethoxybenzene | BrCC1=CC(=C(C=C1)OC)OC | C9H11BrO2
product | 3-(3,4-dimethoxybenzyl)-5-methyl-2-oxo-1-propylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CCC)=O)CC1=CC(=C(C=C1)OC)OC | C28H29NO5
